US09376420B2
Step 2: 1-(4-bromo-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (198.3 mL, 166.6 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (111.1 mL, 166.6 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of 3-(4-bromo-phenyl)-N-methoxy-N-methyl-acrylamide (15.0 g, 55.5 mmol, in diethyl ether 20.0 mL) prepared in Step 1 was slowly added thereto at −78° C. The reaction mixture was stirred at room temperature, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with diethyl ether three times. The combined extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/60) to give 9.0 g of the titled compound as a yellow solid.

reactant | pentafluoroiodoethane | 166.6 mmol, 0.84 M, 198.3 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 166.6 mmol, 1.5 M, 111.1 mL | C[Li].[Br-].[Li+]
reactant | 3-(4-bromo-phenyl)-N-methoxy-N-methyl-acrylamide | 55.5 mmol, 20.0 mL, 15.0 g | BrC1=CC=C(C=C1)C=CC(=O)N(C)OC | C11H12BrNO2
product | 1-(4-bromo-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one | 9.0 g | BrC1=CC=C(C=C1)C=CC(C(C(F)(F)F)(F)F)=O | C11H6BrF5O
